US06774138B2
3-Bromopyridine (3.0 mL, 31 mmol), triethylamine (22 mL, 160 mmol), CuI (1.2 g, 6.2 mmol), and PdC2(PPh3)2 (1.1 g, 1.5 mmol) were combined in DME (92 mL) and cooled to 0° C. 2-Methyl-3-butyne-2-ol (9.0 mL, 93 mmol) was then added and the reaction was allowed to slowly warm to ambient temperature. The mixture was then heated to 55-60° C. for 16 h. The mixture was filtered through Celite™, and the pad was washed thoroughly with ethyl acetate. The combined filtrates were washed with brine (3×100 mL), dried over MgSO4, and filtered. The solution was concentrated in vacuo, and the residue was purified by column chromatography eluting with 90:10 hexane:ethyl acetate then ethyl acetate to afford 2-methyl-4-(3-pyridinyl)-3-butyn-2-ol (2.0 g; 40% yield) as a brown oil 1H NMR (CDCl3, 300 MHz) δ 8.76 (br s, 1H), 8.52 (br s, 1H), 7.74-7.70 (m, 1H), 4.08 (br s, 1H), 1.63 (s, 3H). MS (EI ionization) 161 (M+).

reactant | 3-Bromopyridine | 31 mmol, 3.0 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | triethylamine | 160 mmol, 22 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Methyl-3-butyne-2-ol | 93 mmol, 9.0 mL | CC(C)(C#C)O | C5H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DME | 92 mL | COCCOC | C4H10O2
catalyst | CuI | 6.2 mmol, 1.2 g | [Cu]I
product | 2-methyl-4-(3-pyridinyl)-3-butyn-2-ol | 2.0 g, 40% yield | CC(C)(C#CC=1C=NC=CC1)O | C10H11NO
